US04259198
(Epoxide resin (L))
77 g (0.05 equivalent) of an acid polyester prepared, by the melt process, from 21 mols of succinic anhydride and 20 mols of butanediol and 35 g (0.05 equivalent) of an acid polyester prepared, by the melt process, from 8 mols of adipic acid and 7 mols of neopentylglycol are warmed to 120° C. and mixed well with 11.0 g (0.1 equivalent) of triglycidyl isocyanurate and the mixture is poured into Anticorodal moulds which have internal dimensions of 150×150×1 mm, have been treated with a silicone mould-release agent and have been pre-warmed to 140° C. After removing the air, the mixture is cured in vacuo for 16 hours at 140° C. Crystalline, soft and tough mouldings are obtained, on which the following characteristics are determined:

reactant | succinic anhydride | 21 mols | C1(CCC(=O)O1)=O | C4H4O3
reactant | butanediol | 20 mols | C(CCC)(O)O | C4H10O2
reactant | adipic acid | 8 mols | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | neopentylglycol | 7 mols | CC(C)(CO)CO | C5H12O2
product | Epoxide resin | C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C.C1C(O1)COCC2=CC=CC=C2 | InChI=1S/C10H12O2.C10H10.C8H8/c1-2-4-9(5-3-1)6-11-7-10-8-12-10;1-3-9-5-7-10(4-2)8-6-9;1-2-8-6-4-3-5-7-8/h1-5,10H,6-8H2;3-8H,1-2H2;2-7H,1H2
